US07381719B2
2-Benzyl-2,3-dihydro-1H-isoindol-5-ol
Combine 2-benzyl-5-methoxy-2,3-dihydro-1H-isoindol (580.0 mg, 2.42 mmol) and 48% HBr (aq) (20 mL). Reflux the reaction for 5 hours and then cool to room temperature. Concentrate the reaction mixture under reduced pressure then add to 5 g SCX column. Wash the column with MeOH and elute with 1.0 N NH3-MeOH to afford 265.4 mg, 1.17 mmol (49% yield) of the title compound as a brown solid: 1H NMR (500 MHz, CD3OD); 3.8-3.9 (4H, m), 3.91 (2H, s). 6.6-6.7 (2H, m), 7.0 (1H, d), 7.2-7.5 (5H, m); MS m/z 226 (M+1).

reactant | 2-benzyl-5-methoxy-2,3-dihydro-1H-isoindol | 2.42 mmol, 580.0 mg | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)OC | C16H17NO
solvent | HBr | 20 mL | Br | BrH
product | 2-Benzyl-2,3-dihydro-1H-isoindol-5-ol | 1.17 mmol, 265.4 mg, 49% yield | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)O | C15H15NO
